US04173478
Preparation of N-(benzotriazol-5-yl)-2-hydroxy-5-(4-methoxyphenylazo)benzamide (Dye 7)
5-(4-Methoxyphenylazo)salicoyl chloride (1.46 g) in dry tetrahydrofuran (10 ml) was added dropwise with stirring to a solution of 5-aminobenzotriazole (0.67 g) in dry tetrahydrofuran (15 ml) and dimethylaniline (0.61 g). After 2-3 hours the mixture was poured into water and the solid removed by filtration. The product was crystallized in aqueous pyridine as yellow plates of the monohydrate (1.5 g, 81%), m.p. 275°-6°, λmax (methanol)=352 nm.

reactant | 5-(4-Methoxyphenylazo)salicoyl chloride | 1.46 g | COC1=CC=C(C=C1)N=NC1=CC=C(C(C(=O)Cl)=C1)O | C14H11ClN2O3
reactant | 5-aminobenzotriazole | 0.67 g | NC1=CC2=C(NN=N2)C=C1 | C6H6N4
reactant | dimethylaniline | 0.61 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | N-(benzotriazol-5-yl)-2-hydroxy-5-(4-methoxyphenylazo)benzamide | N1N=NC2=C1C=CC(=C2)NC(C2=C(C=CC(=C2)N=NC2=CC=C(C=C2)OC)O)=O | C20H16N6O3
